US07615562B2
Step B: (5-Aza-spiro[3.5]non-8-yl)-(4-benzo[b]thiophen-2-yl-pyrimidin-2-yl)-amine
The racemic title compound was prepared analogous to Method A, starting from 2,4-dichloro-pyrimidine, benzo[b]thiophen-2-boronic acid and 8-Amino-5-aza-spiro[3.5]nonane-5-carboxylic acid tert-butyl ester followed by BOC-deprotection with 4N-HCl in dioxane.

reactant | 2,4-dichloro-pyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzo[b]thiophen-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 8-Amino-5-aza-spiro[3.5]nonane-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2(CCC2)CC(CC1)N | C13H24N2O2
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (5-Aza-spiro[3.5]non-8-yl)-(4-benzo[b]thiophen-2-yl-pyrimidin-2-yl)-amine | C1CCC12NCCC(C2)NC2=NC=CC(=N2)C2=CC1=C(S2)C=CC=C1 | C20H22N4S
